US05830915
N-((R/S)-Methylphenylphosphinyl)-N-benzyl-D-leucine:
N-Benzyloxy-2(R)-[[(R)-methylphenylphosphinyl]benzylamino]-4-methylpenta-namide and N-benzyloxy-2(R)-[[(S)-methylphenylphosphinyl]benzylamino]-4-methyl-pentanamide: N-(R/S-Methylphenylphosphinyl)-N-benzyl-D-leucine (1.5 g, 4.17 mmol) is dissolved in N-dimethylformamide and cooled to 0° C. To this is added sequentially hydroxybenzotriazole hydrate (1.69 g, 12.5 mmol), N-methylmorpholine (1.37 mL, 12.5 mmol), and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (EDAC, 959 mg, 5 mmol)). After stirring 10 minutes, O-benzylhydroxylamine hydrochloride (666 mg, 4.17 mmol) is added and the reaction is allowed to stir for 3 hours, warming to room temperature. Two diastereomers are observed by TLC. To the mixture is added water, and the mixture is extracted with ethyl acetate. The organics are combined, washed with water and brine, dried over sodium sulfate, and concentrated to give an oil. The diastereomers are then isolated by silica gel flash chromatography (1:1 hexane:ethyl acetate) to give N-benzyloxy-2(R)-[[(R)-methylphenylphosphinyl]benzylamino]-4-methylpentanamide: Rf =0.25 (1:1 hexane:ethyl acetate; 31P NMR (CD3OD) d 43.89; and N-benzyloxy-2(R)-[[(S)-methylphenylphosphinyl]benzylamino]-4-methylpentanamide Rf =0.15 (1:1 hexane:ethyl acetate).

reactant | hexane | CCCCCC | C6H14
reactant | N-benzyloxy-2(R)-[[(S)-methylphenylphosphinyl]benzylamino]-4-methylpentanamide | C(C1=CC=CC=C1)ONC([C@@H](CC(C)C)N(CC1=CC=CC=C1)[P@@](=O)(C1=CC=CC=C1)C)=O | C27H33N2O3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((R/S)-Methylphenylphosphinyl)-N-benzyl-D-leucine | CP(=O)(N([C@H](CC(C)C)C(=O)O)CC1=CC=CC=C1)C1=CC=CC=C1 | C20H26NO3P
